US06020340
C. 7-Difluoromethoxy-2(1-methylethyl)benzofuran-4carboxylic acid
A solution of 0.88 g of sodium chlorite in 5 ml of water is added dropwise to 1.6 g of 7-difluoromethoxy-2-(1-methylethyl)benzofuran-4-carbaldehyde and 0.83 g of amidosulfuric acid, dissolved in 15 ml of glacial acetic acid, such that the internal temperature is kept between 15 and 20° C. The mixture is stirred for a further 1 h and then poured into 150 ml of ice water, and the precipitate formed is filtered off with suction and washed with water until acid-free. For purification, the crude product is dissolved in halfconcentrated, aqueous ammonia, and the aqueous solution is extracted with toluene and acidified with 2 N hydrochloric acid to pH 1-2. The precipitate formed is filtered off with suction, washed with water until acid-free and dried in vacuo: m.p. 169° C.

reactant | sodium chlorite | 0.88 g | Cl(=O)[O-].[Na+]
reactant | 7-difluoromethoxy-2-(1-methylethyl)benzofuran-4-carbaldehyde | 1.6 g | FC(OC=1C=CC(=C2C=C(OC21)C(C)C)C=O)F | C13H12F2O3
reactant | amidosulfuric acid | 0.83 g | S(O)(=O)(=O)N | H3NO3S
solvent | water | 5 ml | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 7-Difluoromethoxy-2(1-methylethyl)benzofuran-4carboxylic acid | FC(OC=1C=CC(=C2C=C(OC21)C(C)C)C(=O)O)F | C13H12F2O4
